US04485209
A nonionic vinyl acetate-acrylamide copolymer was prepared according to the procedure as described in Example 22, except that the aqueous solution contained 125.96 gm of acrylamide, 200.57 gm of water and 0.02 gm of ethylenediamine tetraacetic acid. The water-in-oil emulsion contained 26 percent by weight of active polymer. The polymer had an intrinsic viscosity of 3 dl/gm as measured in a one normal aqueous sodium chloride solution.

reactant | acrylamide | 125.96 gm | C(C=C)(=O)N | C3H5NO
reactant | ethylenediamine tetraacetic acid | 0.02 gm | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | O | H2O
solvent | water | 200.57 gm | O | H2O
product | vinyl acetate acrylamide | C(C)(=O)OC=C.C(C=C)(=O)N | InChI=1S/C4H6O2.C3H5NO/c1-3-6-4(2)5;1-2-3(4)5/h3H,1H2,2H3;2H,1H2,(H2,4,5)
